US05965591
3-(2-Aminoethoxy)-5-fluoro-4-methyl-1,2-benzisoxazole hydrochloride
3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-fluoro-4-methyl-1,2-benzisoxazole (0.15 g) was dissolved in 4N hydrochloric acid/dioxane solution (1.4 ml) and stirred for 15 minutes. The reaction mixture was evaporated under reduced pressure and the precipitated crystals were filtered. The title compound (0.13 g, 98% yield) was obtained as a colorless powder by washing the crystals with ethyl acetate (3 ml).

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-fluoro-4-methyl-1,2-benzisoxazole | 0.15 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=C(C=C2)F)C | C15H19FN2O4
reactant | hydrochloric acid dioxane | 4N, 1.4 ml | Cl.O1CCOCC1
product | 3-(2-Aminoethoxy)-5-fluoro-4-methyl-1,2-benzisoxazole hydrochloride | 0.13 g, 98% yield | Cl.NCCOC1=NOC2=C1C(=C(C=C2)F)C | InChI=1S/C10H11FN2O2.ClH/c1-6-7(11)2-3-8-9(6)10(13-15-8)14-5-4-12;/h2-3H,4-5,12H2,1H3;1H
